US09126993B2
1-azabicyclo[2.2.2]oct-3-yl[2-(4-fluorobiphenyl-3-yl)propan-2-yl]carbamate
Using general procedure E, 1-azabicyclo[2.2.2]oct-3-yl[2-(5-bromo-2-fluorophenyl)propan-2-yl]carbamate (990 mg, 2.57 mmol), phenylboronic acid (209 mg, 1.71 mmol) and palladium (II) acetate gave the title compound as a white solid (257 mg, 26%). 1H NMR (400 MHz, CDCl3) δ 7.58-7.49 (m, 3H), 7.44-7.38 (m, 3H), 7.35-7.29 (m, 1H), 7.08 (dd, J=8.4, 12.1 Hz, 1H), 5.30 (s, 1H), 4.75-4.42 (m, 1H), 2.89 (d, J=10.2 Hz, 6H), 1.81-1.66 (m, 6H), 2.04-1.18 (m, 5H) ppm. 13C NMR (100 MHz, CDCl3) δ 161.7, 159.3, 140.7, 137.3, 137.3, 131.7, 131.7, 131.0, 129.0, 127.5, 127.3, 126.7, 117.1, 116.9, 71.4, 55.8, 54.3, 47.6, 46.7, 28.6, 25.6, 24.8, 19.8 ppm. Purity: 92.0% UPLCMS (210 nm); retention time 0.95 min; (M+1) 382.9. Anal. Calcd. for C23H27FN2O2.0.4 (CHCl3): C, 65.39; H, 6.43; N, 6.52. Found: C, 65.39; H, 6.51; N, 6.42.

reactant | 1-azabicyclo[2.2.2]oct-3-yl[2-(5-bromo-2-fluorophenyl)propan-2-yl]carbamate | 2.57 mmol, 990 mg | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=C(C=CC(=C2)Br)F)=O | C17H22BrFN2O2
reactant | phenylboronic acid | 1.71 mmol, 209 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-azabicyclo[2.2.2]oct-3-yl[2-(4-fluorobiphenyl-3-yl)propan-2-yl]carbamate | 257 mg, 26% | N12CC(C(CC1)CC2)OC(NC(C)(C)C=2C=C(C=CC2F)C2=CC=CC=C2)=O | C23H27FN2O2
